US08377922B2
Isopropyl(4S)-3-oxo-8-[2-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrimidin-2-yl)ethoxy]-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepin-4-acetate hydrochloride
640 mg (1.13 mmol) of (4S)-3-oxo-8-[2-(8-tert-butoxycarbonyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyrimidin-2-yl)ethoxy]-2-(2,2,2-trifluoro ethyl)-2,3,4,5-tetrahydro-1H-2-benzazepin-4-acetic acid obtained in Example 5-(a) and 2.00 mL (26.1 mmol) of 2-propyl alcohol were mixed, 11.3 mL (45.2 mmol) of 4N hydrogen chloride/1,4-dioxane solution was added to the mixture, and the resulting mixture was stirred under nitrogen gas atmosphere at 45° C. for 4.5 hours.

reactant | (4S)-3-oxo-8-[2-(8-tert-butoxycarbonyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyrimidin-2-yl)ethoxy]-2-(2,2,2-trifluoro ethyl)-2,3,4,5-tetrahydro-1H-2-benzazepin-4-acetic acid | 1.13 mmol, 640 mg | O=C1N(CC2=C(C[C@H]1CC(=O)O)C=CC(=C2)OCCC=2N=C1N(CCCN1C(=O)OC(C)(C)C)C2)CC(F)(F)F | C27H33F3N4O6
reactant | 2-propyl alcohol | 26.1 mmol, 2.00 mL | CC(C)O | C3H8O
reactant | hydrogen chloride 1,4-dioxane | 45.2 mmol, 4N, 11.3 mL | Cl.O1CCOCC1
product | Isopropyl(4S)-3-oxo-8-[2-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrimidin-2-yl)ethoxy]-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepin-4-acetate hydrochloride | Cl.O=C1N(CC2=C(C[C@H]1CC(=O)OC(C)C)C=CC(=C2)OCCC=2N=C1N(CCCN1)C2)CC(F)(F)F | InChI=1S/C25H31F3N4O4.ClH/c1-16(2)36-22(33)12-18-10-17-4-5-21(11-19(17)13-32(23(18)34)15-25(26,27)28)35-9-6-20-14-31-8-3-7-29-24(31)30-20;/h4-5,11,14,16,18H,3,6-10,12-13,15H2,1-2H3,(H,29,30);1H/t18-;/m0./s1
